US08258135B2
The (3-bromopyridin-2-yl)acetonitrile (2.00 g, 10.2 mmol) and tert-butyl bis(2-chloroethyl)carbamate (2.46 g, 10.2 mmol) were dissolved in 102 mL of DMSO. The reaction was purged with a stream of nitrogen and cooled to 18° C. To this reaction was added sodium hydride (0.564 g, 22.3 mmol), which was then warmed to 50° C. and stirred for 18 hours. The mixture was diluted with dichloromethane (150 mL), washed with water (3×150 mL), and partitioned between water and dichloromethane. The organic layer was dried over sodium sulfate, filtered, concentrated, and subjected to silica gel chromatography eluting with 5-30% EtOAc in hexanes to yield tert-butyl 4-(3-bromopyridin-2-yl)-4-cyanopiperidine-1-carboxylate.

reactant | (3-bromopyridin-2-yl)acetonitrile | 10.2 mmol, 2.00 g | BrC=1C(=NC=CC1)CC#N | C7H5BrN2
reactant | tert-butyl bis(2-chloroethyl)carbamate | 10.2 mmol, 2.46 g | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
reactant | sodium hydride | 22.3 mmol, 0.564 g | [H-].[Na+]
solvent | DMSO | 102 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(3-bromopyridin-2-yl)-4-cyanopiperidine-1-carboxylate | BrC=1C(=NC=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C16H20BrN3O2
